US08633215B2
(2B) 2-Dimethylaminomethyl-9-methoxy-4H-thieno[2,3-c]isoquinolin-5-one (7)
9-Methoxy-4H-thieno[2,3-c]isoquinolin-5-one (12.7 g; 54.9 mmol) and N,N-dimethylmethyleneammonium chloride (8.53 g; 91.14 mmol) were placed in a 0.5 L three neck round bottle flask under nitrogen atmosphere. Under stirring, DMF (75 mL) was added followed by acetonitrile (ACN) (190 mL) and the reaction mixture was placed into a preheated oil bath (90° C.). The reaction was complete after 1.5 hrs indicated by a worked up NMR sample.

reactant | 9-Methoxy-4H-thieno[2,3-c]isoquinolin-5-one | 54.9 mmol, 12.7 g | COC=1C=2C3=C(NC(C2C=CC1)=O)SC=C3 | C12H9NO2S
reactant | N,N-dimethylmethyleneammonium chloride | 91.14 mmol, 8.53 g | [Cl-].CC=[N+]=CC
reactant | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 190 mL | C(C)#N | C2H3N
product | 2-Dimethylaminomethyl-9-methoxy-4H-thieno[2,3-c]isoquinolin-5-one | CN(C)CC1=CC2=C(NC(C=3C=CC=C(C23)OC)=O)S1 | C15H16N2O2S
